US06982348B2
4) (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoic acid
To a solution of ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoate (1.28 g, 3.05 mmol) in methanol (6 ml) was added 2N aqueous sodium hydroxide solution (3.05 ml, 6.1 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was acidified with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate was added and the mixture was extracted with ethyl acetate (50 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure to give the objective substance (1.20 g, 100%).

reactant | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoate | 3.05 mmol, 1.28 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=NC(=CC=C1)OC(C(F)F)(F)F)O | C19H18F5NO4
reactant | sodium hydroxide | 6.1 mmol, 2N, 3.05 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-{[6-(1,1,2,2-tetrafluoroethoxy)pyridin-2-yl]methyl}propanoic acid | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=NC(=CC=C1)OC(C(F)F)(F)F)O | C17H14F5NO4
